US06232312B1
4,8-Dianilino Pyrimido-Pyrimidine
12 gm. of phosphorus diiodide (P2I4) were added in small portions to a suspension, heated on a steam bath, of 3.8 gm. (0.01) 2,6-dichloro-4,8-dianilino pyrimido-pyrimidine in 40 cc. hydrogen iodide (d=1.7) in the course of about half an hour. Heating was continued for one hour. The mixture was then cooled and the precipitated crystals were filtered off on a vacuum filter. The precipitate was extracted with 200 cc. of hot dioxane. 2.8 gm. of red, brilliant rhombic crystals remained after extraction. The yield was about 90% of the theoretical yield. The crystals were twice recrystallized from dimethyl formamide, whereby very slightly yellowish, small needles having a melting point of 255-256° C. were obtained.

reactant | phosphorus diiodide | [P](I)I | I2P
reactant | 2,6-dichloro-4,8-dianilino pyrimido-pyrimidine | ClC=1N=C(C2=C(C(=NC(=N2)Cl)NC2=CC=CC=C2)N1)NC1=CC=CC=C1 | C18H12Cl2N6
reactant | hydrogen iodide | I | HI
product | 4,8-Dianilino Pyrimido-Pyrimidine | N(C1=CC=CC=C1)C1=NC=NC=2C(=NC=NC21)NC2=CC=CC=C2 | C18H14N6
